US06103708
(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(5-methyl-6-hydroxy-biphen-3-yl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(5-methyl-6-methoxy-biphen-3-yl)-methanone (1.68 g, 4.09 mmol) and 1M boron tribromide/CH2Cl2 (8.58 mL). Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 1.29 g (80%) of the title compound. 1H NMR (DMSO-d6) δ 1.83 (s, 3 H), 2.17 (s, 3 H), 2.25 (s, 3 H), 3.85 (s, 2 H), 7.07-7.10 (m, 2 H), 7.14-7.26 (m, 3 H), 7.33-7.43 (m, 6 H), 7.54 (d, 1 H), 9.31 (s, 1 H).

reactant | (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(5-methyl-6-methoxy-biphen-3-yl)-methanone | 4.09 mmol, 1.68 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)C1=CC=CC=C1)OC)C)C)C | C28H26O2S
reactant | boron tribromide CH2Cl2 | 1M, 8.58 mL | B(Br)(Br)Br.C(Cl)Cl
product | (2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(5-methyl-6-hydroxy-biphen-3-yl)-methanone | 1.29 g, 80% | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)C1=CC=CC=C1)O)C)C)C | C27H24O2S
